US06548495B2
3-[8-(2-Methoxy-ethoxy)-4-oxo-7-pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile
The title compound was prepared from [2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-5-(2-methoxy-ethoxy)-4-pyrrol-1-yl-phenyl]-carbamic acid tert.-butyl ester (Example M10) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a beige solid (22 mg).

reactant | [2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-5-(2-methoxy-ethoxy)-4-pyrrol-1-yl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)N1C=CC=C1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C28H30N4O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[8-(2-Methoxy-ethoxy)-4-oxo-7-pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile | COCCOC=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C1)N1C=CC=C1 | C23H20N4O3
